* C:\Users\dvarx\src\dipole_loc\spice\preamp\initial_bandpass.asc
V1 in 0 AC 1 0
C1 N004 N003 2.4n
R1 out 0 1e6
C2 out 0 20p
R2 0 out 1k
R3 N005 N004 100
R4 out N005 10k
V2 vpos 0 5
V3 vneg 0 -5
L1 N002 N003 47m Rser=8.3
L2 N001 N002 900n Rser=0.3
L3 in N001 900n Rpar=0.3
XU2 0 N005 vpos vneg out LT1028
;ac dec 100 10 10e6
* Pickup Coil / Compensation Coil
* Induced Voltage
.noise V(out) V1 dec 100 10 10e6
;step param Cf 0.1n 10n 0.1n
.lib LTC.lib
.backanno
.end
